US07294642B2
Preparation 8: (1R,2S)-2-amino-3-(3,5-difluorophenyl)-1-({[3-(trifluoromethyl)benzyl]amino}methyl)propyl 3-[(dipropylamino)carbonyl]-5-(1,3-oxazol-2-yl)benzoate dihydrochloride
(1R,2S)-2-[(tert-butoxycarbonyl)amino]-1-({(tert-butoxycarbonyl)[3-(trifluoromethyl)benzyl]amino}methyl)-3-(3,5-difluorophenyl)propyl 3-[(dipropylamino)carbonyl]-5-(1,3-oxazol-2-yl)benzoate (482 mg, 0.55 mmole) is dissolved in hydrochloric acid/dioxane (4N, 3 ml) is stirred for 1 hour at 20-25°. The solvent is then removed under reduced pressure to give the title compound, MS (MH+) 673.

reactant | (1R,2S)-2-[(tert-butoxycarbonyl)amino]-1-({(tert-butoxycarbonyl)[3-(trifluoromethyl)benzyl]amino}methyl)-3-(3,5-difluorophenyl)propyl 3-[(dipropylamino)carbonyl]-5-(1,3-oxazol-2-yl)benzoate | 0.55 mmole, 482 mg | C(CC)N(C(=O)C=1C=C(C(=O)O[C@@H]([C@H](CC2=CC(=CC(=C2)F)F)NC(=O)OC(C)(C)C)CN(CC2=CC(=CC=C2)C(F)(F)F)C(=O)OC(C)(C)C)C=C(C1)C=1OC=CN1)CCC | C45H53F5N4O8
reactant | hydrochloric acid dioxane | 4N, 3 ml | Cl.O1CCOCC1
product | (1R,2S)-2-amino-3-(3,5-difluorophenyl)-1-({[3-(trifluoromethyl)benzyl]amino}methyl)propyl 3-[(dipropylamino)carbonyl]-5-(1,3-oxazol-2-yl)benzoate dihydrochloride | Cl.Cl.C(CC)N(C(=O)C=1C=C(C(=O)O[C@@H]([C@H](CC2=CC(=CC(=C2)F)F)N)CNCC2=CC(=CC=C2)C(F)(F)F)C=C(C1)C=1OC=CN1)CCC | InChI=1S/C35H37F5N4O4.2ClH/c1-3-9-44(10-4-2)33(45)25-16-24(32-43-8-11-47-32)17-26(18-25)34(46)48-31(30(41)15-23-13-28(36)19-29(37)14-23)21-42-20-22-6-5-7-27(12-22)35(38,39)40;;/h5-8,11-14,16-19,30-31,42H,3-4,9-10,15,20-21,41H2,1-2H3;2*1H/t30-,31+;;/m0../s1
